US03980651
1-Phenyl-3-methyl-barbituric acid was prepared by condensation of malonic acid diethyl ester with phenyl-methylurea in methanol, with addition of sodium methylate. It melts at about 124°C after recrystallization from toluene.

reactant | malonic acid diethyl ester | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | phenyl-methylurea | C1(=CC=CC=C1)N(C(=O)N)C | C8H10N2O
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 1-Phenyl-3-methyl-barbituric acid | C1(=CC=CC=C1)N1C(=O)N(C(=O)CC1=O)C | C11H10N2O3
